US07935724B2
To 5-phenylacetylamino-thiophene-2-carboxylic acid methyl ester (92.7 mg, 0.34 mmol) were added NH2OH.HCl (110.0 mg, 1.58 mmol) and 5 mL of anhydrous MeOH. A solution of NaOMe (4.37 M in MeOH, 0.75 mL, 3.28 mmol) was added. The resulting mixture was allowed to stir at 50° C. for 6 h, at ii for 14 h, again at 50° C. for 3 days and then at rt for additional 2 days. Five mL of water was added and the mixture was stirred at rt for 3 days. A solution of NaOMe (4.37 M in MeOH, 0.75 mL, 3.28 mmol) was then added and the resulting mixture was allowed to stir at rt for additional 3 days. After the reaction was complete, MeOH was removed and the aqueous layer was acidified with 2N aqueous HCl to pH≈2. After extracted with 2×15 mL of EtOAc, the combined organic layer was concentrated and dried under high vacuum. The residue was subsequently dissolved in 6 mL of anhydrous DMF and the mixture was cooled to 0° C. Diisopropylethylamine (0.20 mL, 1.15 mmol) and HBTU (210.7 mg, 0.56 mmol) were added. After stirring at 0° C. for 1 h and at it for additional 1 h, 1.3 mL of 50% aqueous NH2OH solution was added and the mixture was allowed to stir at rt overnight. After concentration under high vacuum, the resulting residue was purified by flash column chromatography (70% EtOAc/hexanes to EtOAc and then to 10% MeOH/EtOAc) to give 5-phenylacetylamino-thiophene-2-carboxylic acid hydroxyamide as a pale solid. 1H NMR (DMSO-d6, 200 MHz) δ 7.55-7.15 (m, 6H), 6.64 (d, J=4.0 Hz, 1H), 3.68 (s, 2H). MS (EI): cal'd 277.31 (MH+), exp 277.25 (MH+).

reactant | 5-phenylacetylamino-thiophene-2-carboxylic acid methyl ester | 0.34 mmol, 92.7 mg | COC(=O)C=1SC(=CC1)NC(CC1=CC=CC=C1)=O | C14H13NO3S
reactant | NH2OH.HCl | 1.58 mmol, 110.0 mg | NO.Cl
reactant | NaOMe | 3.28 mmol, 4.37 M, 0.75 mL | C[O-].[Na+]
reactant | NaOMe | 3.28 mmol, 4.37 M, 0.75 mL | C[O-].[Na+]
reactant | Diisopropylethylamine | 1.15 mmol, 0.20 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HBTU | 0.56 mmol, 210.7 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | NH2OH | 1.3 mL | NO | H3NO
solvent | water | Five mL | O | H2O
solvent | MeOH | 5 mL | CO | CH4O
product | 5-phenylacetylamino-thiophene-2-carboxylic acid hydroxyamide | ONC(=O)C=1SC(=CC1)NC(CC1=CC=CC=C1)=O | C13H12N2O3S
